* AB763 (Blackface Twin Reverb-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published
* "TWIN REVERB-AMP AB763" drawing's component values (see meta.yaml); no drawing
* reproduced. The drawing labels the six preamp bottles 7025 and 12AX7 — 7025 is
* an alias for the 12AX7 (reference/tubes/12ax7.yaml also_known_as) — and the
* reverb driver and phase inverter 12AT7. The output quartet is lettered
* 6L6GC(4) and uses the clean-room 6L6GC model added with this amp.
*
* DC conventions. Two printed supply nodes are driven at their charted values and
* everything below them is solved:
*   BP1 = +460 V — the reservoir node: 6L6GC plates through the output
*                  transformer (TR3, 125A29A) primary, whose DCR is omitted, so
*                  plate node == OT centre tap, both printed +460 V.
*   BB  = +458 V — node [B] on the drawing, the post-choke node (TR2, 125C1A).
*                  It feeds the four 470 Ohm-1W screen stoppers, the reverb
*                  driver through the reverb transformer (TR4, 125A20B) primary,
*                  and the excluded tremolo (below).
* The two lower rails are DERIVED through the drawing's own droppers, so their
* simulated values are a check on the chart rather than an input to it:
*   BB -> 1k-1W  -> BC (printed +450 V, the phase-inverter plate supply, node [C])
*   BC -> 4.7k-1W-> BD (printed +410 V, the preamp plate supply,      node [D])
*
* The negative-bias supply (bias tap + 470 Ohm-1W + rectifier + 25 uF/50 V can +
* 10k-L balance control over a 27k leg) is replaced by an ideal -52 V source,
* exactly as its AC/ripple-filtering role warrants. Likewise the solid-state main
* rectifier (two three-diode strings off a 340-0-340 V winding) and the 70+70 uF
* series reservoir with its 220k-1W balancing pair: BP1 is driven at the value
* they produce.
*
* DC-open caps are MODELLED where BOTH leads land on a named DC node (the PI ->
* output-grid coupling caps and every cathode-bypass can) so an eventual layout
* is placement-checked; open at DC they move no operating point. Caps into the
* abstracted volume / tone / reverb-mix / tremolo networks stay omitted.
*
* SHARED CATHODE NETWORKS. The drawing carries boxed letters for nodes that
* appear in more than one place ([B] [C] [D] are the supply nodes above). Two
* more, [A] and [E], tie cathodes together, and each pair is printed at the same
* +2.0 V:
*   [A] the Normal channel's second stage and the Vibrato channel's second stage
*       share ONE 820 Ohm / 25 uF cathode network (drawn on the vibrato side).
*   [E] the reverb-recovery stage and the reverb/dry mix driver share another.
* Modelled as drawn: KA and KE each carry two triodes.
*
* EXCLUDED — the tremolo (vibrato) 12AX7. Neither half has a static operating
* point: one is a running phase-shift oscillator (its printed +2.0 V cathode is a
* grid-leak-detected average), and the other drives a neon lamp inside the
* optocoupler, so its printed +380 V plate / +5.6 V cathode are the average a
* meter reads while the lamp fires and extinguishes. Both are documented in
* notes.md, not modelled. Unlike the Deluxe Reverb's tremolo, this one taps BB —
* a DRIVEN node — not the preamp rail, so leaving it out shifts no gated node.
.include models/12ax7.inc
.include models/12at7.inc
.include models/6l6gc.inc

VBP1 BP1 0 DC 460
VBB  BB  0 DC 458
VBIAS NBIAS 0 DC -52

* supply droppers (BOM RD1, RD2) — the two lower rails are solved, not driven
RD1 BB BC 1k
RD2 BC BD 4.7k

* --- Normal channel input stage (12AX7): 100k plate off BD, 1.5k cathode with a
*     25 uF bypass, grid returned to ground through the input jacks' 1M leak.
RLN1 BD PN1 100k
XV1A PN1 GN1 KN1 12AX7
RGN1 GN1 0 1meg
RKN1 KN1 0 1500
CKN1 KN1 0 25u

* --- Vibrato channel input stage (12AX7): identical topology, same rail.
RLV1 BD PV1 100k
XV2A PV1 GV1 KV1 12AX7
RGV1 GV1 0 1meg
RKV1 KV1 0 1500
CKV1 KV1 0 25u

* --- Normal 2nd stage + Vibrato 2nd stage (12AX7 each): 100k plate loads off
*     BD; both cathodes on the SHARED node KA (820 Ohm / 25 uF, drawing box [A]).
*     Each grid returns through its channel's 1M volume pot (~0 V DC).
RLN2 BD PN2 100k
XV1B PN2 GN2 KA 12AX7
RGN2 GN2 0 1meg
RLV2 BD PV2 100k
XV2B PV2 GV2 KA 12AX7
RGV2 GV2 0 1meg
RKA KA 0 820
CKA KA 0 25u

* --- Reverb recovery + reverb/dry mix driver (12AX7 each): 100k plate loads off
*     BD; both cathodes on the SHARED node KE (820 Ohm / 25 uF, drawing box [E]).
*     The recovery grid returns to ground through its 220k tank leak. The mix
*     driver's grid returns through the drawn 220k leak (RTOG4). The 3.3M (10 pF
*     across it) sits IN SERIES ahead of that grid and reaches only the dry
*     node GDRY, which the 0.02 uF coupler (CCV2) and the 500 pF send (CRS)
*     block at DC: it carries no DC, and GDRY sits at the grid's own 0 V. It and
*     the three caps are modelled so the board's placement of this corner is
*     machine-checked. The 470k reverb return is left out: it runs to the
*     Reverb pot's wiper, at 0 V, in parallel with the leak, and moves nothing.
RLR1 BD PR1 100k
XV4B PR1 GR1 KE 12AX7
RGR1 GR1 0 220k
RLD1 BD PD1 100k
XV4A PD1 GD1 KE 12AX7
RTOG4 GD1 0 220k
RGD1 GDRY GD1 3.3meg
CBD1 GDRY GD1 10p
CCV2 PV2 GDRY 0.02u
CRS GDRY GRD 500p
RKE KE 0 820
CKE KE 0 25u

* --- Reverb driver (12AT7, BOTH sections in parallel): plates tied and fed from
*     BB through the reverb transformer TR4 (125A20B) primary DCR, modelled at
*     200 Ohm; grids tied through a 1M leak; shared 2.2k cathode with a 25 uF can.
RTR4 BB PRD 200
XV3A PRD GRD KRD 12AT7
XV3B PRD GRD KRD 12AT7
RGRD GRD 0 1meg
RKRD KRD 0 2.2k
CKRD KRD 0 25u

* --- Phase inverter (12AT7 long-tailed pair): 82k (hot) and 100k (cold) 5% plate
*     loads off BC; cathodes joined at KPI, 470 Ohm down to the tail junction JPI,
*     22k from JPI to the feedback node NFB; both 1M grid leaks return to JPI.
*     NFB is the speaker-feedback divider: 100 Ohm to ground, and the 820 Ohm
*     feedback resistor to the output-transformer secondary, which the netlist
*     folds into ground (the secondary's DCR is not modelled). At DC the pair
*     therefore sees 22k in series with 100 || 820 = 89 Ohm.
RLPA BC PPIA 82k
XV6A PPIA GPIA KPI 12AT7
RGPA GPIA JPI 1meg
RLPB BC PPIB 100k
XV6B PPIB GPIB KPI 12AT7
RGPB GPIB JPI 1meg
RTAIL KPI JPI 470
RT22 JPI NFB 22k
RFB1 NFB 0 100
RFB2 NFB 0 820

* --- Output quartet 6L6GC (fixed bias): each PAIR shares a 220k grid leak to the
*     -52 V line and a 0.1 uF coupler from one phase-inverter plate; each BOTTLE
*     then gets its own 1500 Ohm grid stopper and 470 Ohm-1W screen stopper off
*     BB. Cathodes grounded; plates at BP1 (OT primary DCR omitted).
RGL1 NBIAS GB1 220k
RST1 GB1 G61 1500
XV7 BP1 S61 G61 0 6L6GC
RSC1 BB S61 470
RST2 GB1 G62 1500
XV8 BP1 S62 G62 0 6L6GC
RSC2 BB S62 470

RGL2 NBIAS GB2 220k
RST3 GB2 G63 1500
XV9 BP1 S63 G63 0 6L6GC
RSC3 BB S63 470
RST4 GB2 G64 1500
XV10 BP1 S64 G64 0 6L6GC
RSC4 BB S64 470

* PI-plate -> output-grid coupling caps (0.1 uF, DC-open). Modelled so an
* eventual layout's inter-stage routing and push-pull phase are machine-checked;
* each grid pair still sits at -52 V through its 220k leak, so the operating
* point is unmoved.
C1 PPIA GB1 0.1u
C2 PPIB GB2 0.1u
